US07732617B2
(R)-2-(9-(1H-1,2,3-triazol-1-yl)nonyl)-2,5,7,8-tetramethylchroman-6-ol
A solution of tetrabutylammonium fluoride (TBAF) (1M in THF, 250 μL) was added dropwise via syringe to a stirred solution of (R)-1-(9-(6-(tert-butyldimethylsilyloxy)-2,5,7,8-tetramethylchroman-2-yl)nonyl)-1H-1,2,3-triazole (65 mg, 0.126 mmol) in dry THF (5 ml). The mixture was stirred at room temperature for 30 minutes until starting material was not detected by TLC. The reaction was then quenched with 500 μL of 1N HCl and diluted with 25 ml of ether, to which an additional 10 ml of dH2O was added. The water phase was extracted again with ether (2×25 ml), dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The crude product was chromatographed on silica gel (Et2O) to give the pure product (TLC Rf=0.49, EtOAc) as an off-white/yellow solid. (35 mg, 70%)

reactant | tetrabutylammonium fluoride | 1M, 250 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (R)-1-(9-(6-(tert-butyldimethylsilyloxy)-2,5,7,8-tetramethylchroman-2-yl)nonyl)-1H-1,2,3-triazole | 0.126 mmol, 65 mg | [Si](C)(C)(C(C)(C)C)OC=1C(=C2CC[C@@](OC2=C(C1C)C)(C)CCCCCCCCCN1N=NC=C1)C | C30H51N3O2Si
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (R)-2-(9-(1H-1,2,3-triazol-1-yl)nonyl)-2,5,7,8-tetramethylchroman-6-ol | N1(N=NC=C1)CCCCCCCCC[C@]1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C24H37N3O2
